US04028374
2-[3-(p-Bromophenyl)ureido]-6,7-dichloro-4-thiocyanatobenzothiazole
p-Bromophenyl isocyanate (20 g., 0.10 mole) was added in portions to a solution of 27.6 g. (0.10 mole) of 2-amino-6,7-dichloro-4-thiocyanatobenzothiazole in 300 ml. of dimethylformamide. The solution was heated at 100° with stirring for 41/2 hours and cooled at 0° overnight. The solid was collected by filtration. The filtrate was poured into ice water and the solid was collected by filtration. The combined solids were recrystallized from a methanol-dimethylformamide-water mixture to give 22 g. (50%) of product. Recrystallization from ethanol gave an analytical sample, m.p. 243°-245° .

reactant | p-Bromophenyl isocyanate | 0.10 mole, 20 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | 2-amino-6,7-dichloro-4-thiocyanatobenzothiazole | 0.10 mole | NC=1SC2=C(N1)C(=CC(=C2Cl)Cl)SC#N | C8H3Cl2N3S2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[3-(p-Bromophenyl)ureido]-6,7-dichloro-4-thiocyanatobenzothiazole | BrC1=CC=C(C=C1)NC(NC=1SC2=C(N1)C(=CC(=C2Cl)Cl)SC#N)=O | C15H7BrCl2N4OS2
